US06657070B2
To 25 mL of sulfuric acid at 0° C. was added (S)-3-ethyl-2-{[(S)-1-phenylethyl]amino}pentanenitrile (2.7 g, 11.6 mmol) portionwise. The mixture was warmed to 25° C. After 2 days, the reaction mixture was poured over about 100 g of crushed ice. Concentrated NH4OH was added to neutralize the acid. This mixture was extracted with EtOAc (3×100 mL), dried over Na2SO4, filtered and concentrated to give 3-ethyl-N2-[(S)-1-phenylethyl]-L-norvalinamide (2.6 g, 90%), which was used in the next step without purification. Mass Spectrum (+ESI): 249 (M+H)+. Anal. Calc'd for C15H24N2O: C, 72.54; H, 9.74; N, 11.28. Found: C, 72.24; H, 10.04; N, 11.01

reactant | sulfuric acid | 25 mL | S(O)(O)(=O)=O | H2O4S
reactant | (S)-3-ethyl-2-{[(S)-1-phenylethyl]amino}pentanenitrile | 11.6 mmol, 2.7 g | C(C)C([C@@H](C#N)N[C@@H](C)C1=CC=CC=C1)CC | C15H22N2
reactant | NH4OH | [NH4+].[OH-]
product | 3-ethyl-N2-[(S)-1-phenylethyl]-L-norvalinamide | 2.6 g, 90% | C(C)C([C@H](N[C@@H](C)C1=CC=CC=C1)C(=O)N)CC | C15H24N2O
